Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization with DES placed in diagonal branch of 
LAD

 
History of Present Illness:
Mr. ___ is a ___ man with a history of CAD s/p stents to LCx,
LAD, and RCA in ___, HTN, HLD, and former tobacco use, who
presented with chest pain, and is admitted after cardiac cath. 

He lives in ___, and was visiting his brother in
___. Prior to living in ___, he saw Dr ___ at ___, where he had his most recent cath.

Earlier today, he developed substernal chest pain. Pain was 
___,
and did not radiate. Not associated with diaphoresis, shortness
of breath, or palpitations. It felt different than his typical
angina pain.

He presented to ___, where troponin 0.05. He was treated
with Lovenox, given a GI cocktail, and aspirin 324. He was
transferred to ___ for further management.

- At ___ ED initial vitals were:  98.1 61 136/77 22 97% RA 
- EKG:  Sinus rhythm with Q wave in V1. Submillimeter 
downsloping
ST segments III, aVF.
- Labs/studies notable for:  trop 0.13
- Patient was given:  
___ 11:17 IV Morphine Sulfate 2 mg   
___ 11:17 SL Nitroglycerin SL .4 mg    
___ 11:29 IV Morphine Sulfate 2 mg   
___ 11:30 SL Nitroglycerin SL .4 mg   
___ 12:43 IV Morphine Sulfate 2 mg  
___ 12:45 IV DRIP Nitroglycerin (0.35-3.5 mcg/kg/min
ordered) 

- Vitals on transfer: 98.3 65 151/82 17 96% RA 

He was taken straight to the cath lab, where he had a DES placed
to the left diag. 180cc of contrast were given in the procedure.
He had already been taking aspirin & Plavix, so he received no
loading of antiplatelet medication. Procedure through right
wrist, with no acute complications. 

On the floor, he felt well, with no chest pain or dyspnea. He is
hungry, and has no nausea or vomiting. 

 
Past Medical History:
CAD s/p stents to LCx, LAD, and RCA in ___, HTN, HLD, and 
former tobacco use
 
Social History:
___
Family History:
no family history of premature coronary disease
 
Physical Exam:
ADMISSION PHYSICAL
 Temp. 98.5 PO 148 / 66 L Lying 67 20 96 RA 
 Gen: Pleasant, calm. No acute distress.  
 HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
 NECK: Supple, No LAD. No JVD.  
 CV: PMI in ___ intercostal space, mid clavicular line. Distant  

 heart sounds with RRR. normal S1,S2. No murmurs, rubs, clicks,
or  
 gallops  
 LUNGS: CTAB. No wheezes, rales, or rhonchi.  
 ABD: NABS. Soft, NT, ND. No HSM.  
 EXT: WWP, NO CCE. Full distal pulses bilaterally.  +TR band on 
R
wrist. 2+ radial pulse bilaterally. Sensation in tact. 
 SKIN: No rashes/lesions, ecchymoses.  
 NEURO: A&Ox3. CN ___ grossly intact. 
 
DISCHARGE PHYSICAL
 Temp. 97.9 PO 148 / 80 69 18 95 Ra  
 Gen: Well appearing gentleman in NAD, sitting on edge of bed, 
good historian
 HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
 NECK: Supple, No LAD. No JVD.  
 CV: PMI in ___ intercostal space, mid clavicular line. Distant  

 heart sounds with RRR. normal S1,S2. No murmurs, rubs, clicks,
or  
 gallops  
 LUNGS: CTAB. No wheezes, rales, or rhonchi.  
 ABD: NABS. Soft, NT, ND. No HSM.  
 EXT: WWP, NO CCE. Full distal pulses bilaterally.  R
wrist c/d/I with no hematoma. 2+ radial pulse bilaterally. 
Sensation in tact. 
 SKIN: No rashes/lesions, ecchymoses.  
 NEURO: A&Ox3. CN ___ grossly intact. 

 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 01:09PM BLOOD WBC-13.0* RBC-4.79 Hgb-15.2 Hct-41.6 
MCV-87 MCH-31.7 MCHC-36.5 RDW-12.6 RDWSD-40.1 Plt ___
___ 01:09PM BLOOD Neuts-73.3* ___ Monos-4.6* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-9.54* AbsLymp-2.70 
AbsMono-0.60 AbsEos-0.07 AbsBaso-0.03
___ 01:09PM BLOOD Glucose-109* UreaN-15 Creat-0.8 Na-141 
K-3.8 Cl-101 HCO3-26 AnGap-14
___ 01:09PM BLOOD CK(CPK)-368*
___ 01:09PM BLOOD CK-MB-41* MB Indx-11.1* proBNP-367*
___ 01:09PM BLOOD cTropnT-0.13*
___ 12:56AM BLOOD cTropnT-0.88*

=======
IMAGING
=======

___ TTE
The left atrial volume index is normal. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. The estimated 
cardiac index is normal (>=2.5L/min/m2). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). The right ventricular cavity is mildly dilated 
with normal free wall contractility. The aort carch is mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion. 

 IMPRESSION: Suboptimal image quality. Normal left ventricular 
cavity sizes with preserved regional and global biventricular 
systolic function. Mild right ventricular cavity dilation. 
Mildly dilated aortic arch. No valvular pathology or pathologic 
flow identified.

 CLINICAL IMPLICATIONS: 
 The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, a follow-up echocardiogram 
is suggested in ___ years.  

___ Cardiac Catheterization
Coronary Anatomy
Dominance: Right
The ___ had no angiographically apparent CAD. The LAD had mild 
luminal irregularities. The
Diagonal had ulcerated origin 90% stenosis in a 2.0 mm vessel. 
The Cx had mild plaquing. The RCA
was large and widely patent with distal 40% ISR.
Interventional Details
A 6 ___ EBU3.5 guiding catheter was used to engage the LMCA 
and provided adequate support. A
180 cm Prowater guidewire was then successfully delivered across 
the lesion. A 2,0 mm balloon was
used to predilate. A 2.25 x 15 mm Onyx stent was deployed, Final 
angiography revealed normal flow, no
dissection and 0% residual stenosis.
Impressions:
1. Successful DES in the diagonal branch of LAD.

==============
DISCHARGE LABS
==============
___ 08:15AM BLOOD Hct-42.3 Plt ___
___ 08:15AM BLOOD Glucose-109* UreaN-13 Creat-0.9 Na-142 
K-4.4 Cl-101 HCO3-27 AnGap-14
___ 08:15AM BLOOD cTropnT-0.61*
___ 08:15AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.1 Cholest-134
___:15AM BLOOD Triglyc-194* HDL-44 CHOL/HD-3.0 
LDLcalc-51
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of CAD s/p stents to LCx, 
LAD, and RCA in ___, HTN, HLD, and former tobacco use, who 
presented with chest pain, found to have NSTEMI. 

#NSTEMI: Pt presented initially to ___, and was found to 
have an elevated troponin to 0.05. He was subsequently 
transferred here and went directly to the cath lab, where he had 
a DES placed in the left diagonal branch of the LAD. Cath showed 
90% ulcerated stenosis of the diagonal branch, with normal flow 
after stent deployment. He was already on Plavix, so was not 
Plavix-loaded. He had an echo done after stent placement that 
showed an LVEF > 55% and no wall motion abnormalities (although 
images were of suboptimal quality). His Troponin T peaked at 
0.88, and was downtrending on discharge. The only medication 
change was uptitration of atorvastatin to 80mg.

#Hypertension: Initially held losartan, continued on discharge. 
Continued home amlodipine and atenolol. 

#HLD: Home atorvastatin was up-titrated to 80mg.

===================
TRANSITIONAL ISSUES
===================
- The patient has a mildly dilated ascending aorta. Based on 
___ ACCF/AHA Thoracic Aortic Guidelines, a follow-up 
echocardiogram is suggested in ___ years. 

#CODE STATUS: Full Code
#CONTACT: Brother ___ (cell), ___ (home)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Losartan Potassium 100 mg PO DAILY 
6. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atenolol 50 mg PO DAILY  
5.  Clopidogrel 75 mg PO DAILY  
6.  Losartan Potassium 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: NSTEMI
Secondary Diagnoses: coronary artery disease, hypertension, 
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
You were having chest pain. 

WHAT HAPPENED IN THE HOSPITAL?
==============================
Your bloodwork showed that you were having a heart attack, so 
you had a cardiac catheterization done. You had a stent placed 
in one of the blood vessels of your heart to help keep it open. 

WHAT SHOULD I DO WHEN I GO HOME?
================================
Please follow up with your PCP and cardiologist, and continue to 
take all of your medications. It is especially important that 
you take your aspirin and Plavix every day, as these help keep 
your new stent from getting blocked.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___